US05373009
4-Methyl-1-piperidinecarboxylic acid 2-dibenzofuranyl ester
A mixture of 2-hydroxydibenzofuran (10.0 g, 54.3 mmol), dimethylaminopyridine (DMAP) (7.3 g, 59.8 mmol) and 4-methyl-1-piperidinecarbonyl chloride (8.8 ml, 59.7 mmol) in 200 mL of benzene was refluxed under nitrogen for 7 hours. The reaction was extracted with 1N HCl and then the organic layer was dried (MgSO4) and the solvent removed under reduced pressure to give 17.51 g of a light brown solid. Recrystallization of the solid from diisopropyl ether gave 10.82 g (64%) of the title compound as a light brown crystalline solid, mp 123°-125° C.

reactant | 2-hydroxydibenzofuran | 54.3 mmol, 10.0 g | OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H8O2
reactant | dimethylaminopyridine | 59.8 mmol, 7.3 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-methyl-1-piperidinecarbonyl chloride | 59.7 mmol, 8.8 ml | CC1CCN(CC1)C(=O)Cl | C7H12ClNO
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | 4-Methyl-1-piperidinecarboxylic acid 2-dibenzofuranyl ester | 17.51 g | C1=C(C=CC=2OC3=C(C21)C=CC=C3)OC(=O)N3CCC(CC3)C | C19H19NO3
